US06919338B2
N′-(2-cyano-4-methoxy-5-(3-piperidinylpropoxy)-4-methoxyphenyl)-N,N-dimethylimidoformamide
N′-(2-cyano-4-methoxy-5-(3-chloropropoxy)4-methoxyphenyl)-N,N-dimethylimidoformamide (3 g, 10 mmol) in acetonitrile (50 ml) was reacted with piperidine (10 ml, 100 mmol) in presence of KI (300 mg, 1.8 mmol) and K2CO3 (2.1 g, 0.015 mmol) at 75° C. under argon for 3 hours. The solvent was evaporated, and the residue purified by silica gel chromatography, Eluant CH2Cl2/MeOH, NH3 3N 95/5 to give title compound (3.48 g, 100%).

reactant | N′-(2-cyano-4-methoxy-5-(3-chloropropoxy)4-methoxyphenyl)-N,N-dimethylimidoformamide | 10 mmol, 3 g | C(#N)C1=C(C=C(C(C1)(OC)OC)OCCCCl)N=CN(C)C | C15H22ClN3O3
reactant | piperidine | 100 mmol, 10 ml | N1CCCCC1 | C5H11N
reactant | K2CO3 | 0.015 mmol, 2.1 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | N′-(2-cyano-4-methoxy-5-(3-piperidinylpropoxy)-4-methoxyphenyl)-N,N-dimethylimidoformamide | 3.48 g, 100% | C(#N)C1=C(C=C(C(C1)(OC)OC)OCCCN1CCCCC1)N=CN(C)C | C20H32N4O3
